2146-05-13 06:56:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - fever downtrending, CK peaked at 3082
   - metoprolol increased, then decreased
   - started hydralazine PRN
   - reduced dantrolene dose per pharmacy
   - intubated for airway protection
   - tox c/s - suggested paralysis (cisatracurium), deferred as CK
   downtrending
   - EEG - no seizure
   - right radial a-line placed
   - TTE - LVEF 45%, infero-lateral akinesis, [**11-26**]+ MR
   - EKG - QTc 457
   - CT: Hypodensity in right frontal lobe, consider MRI w gad for further
   eval
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2146-5-13**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 61 (60 - 132) bpm
   BP: 137/42(76) {137/37(67) - 168/54(91)} mmHg
   RR: 13 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,089 mL
                                                                  2,224 mL
   PO:
             TF:
   IVF:
                                                                  4,089 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    610 mL
   Urine:
                                                                  1,900 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,189 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/40/175/23/3
   Ve: 4.6 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Gen: elderly woman, intubated, sedated arrival to ICU. Very diaphoretic
   upon initial
   HEENT - sclerae anicteric, mouth wide open, very dry and erythematous
   MM, ? area of vesicles over posterior OP
   CV - tachycardic, no m/r/g
   Lungs - limited exam, CTA b/l
   Abd - Soft, NT, mild distention, decreased BS throughout
   Ext - no LE edema, WWP, 2+ distal pulses, extremely rigid
   Neuro - obtunded, nonverbal, grimaces to pain and sternal rub. PERRL,
   unable to test remaining cranial nerves, increased tone throughout with
   rigidity of all extremities UE > LE. Unable to assess motor strength or
   sensation. 2+ DTRs in UEs, 3+ DTR in [**Name2 (NI) 1527**], upgoing toe on right.
   Equivocal Babinskis on left.
   Skin - warm, no rashes
   Labs / Radiology
   203 K/uL
   8.9 g/dL
   91 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   25.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
   WBC
   9.1
   7.9
   Hct
   28.3
   25.4
   Plt
   224
   203
   Cr
   1.2
   1.2
   1.0
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   Glucose
   112
   107
   91
   Other labs: PT / PTT / INR:12.2/29.3/1.0, CK / CKMB /
   Troponin-T:1510/7/<0.01, ALT / AST:41/76, Alk Phos / T Bili:36/0.3,
   LDH:295 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression who initially was
   admitted with SOB and UTI and is now transferred due to altered mental
   status and total body rigidity.
   .
   # AMS/rigidity: Initial concern for seizures; however, pt noted to have
   some purposeful movement in spite of rigidity. Differential also
   includes infectious causes including meningitis/encephalitis, dystonic
   reaction to neuroleptic agents, neuroleptic malignant syndrome vs.
   serotonin syndrome although patient without fevers, CVA, seizures,
   toxic-metabolic encephalopathy. Patient also hypertensive upon arrival,
   thus HTN emergency also remains on differential. Doubt EtOH withdrawal
   as she is outside the window for this. She had been getting ativan at
   OSH which could be contributing to current AMS. Doubt hypercarbia as
   ABG without elevated PaCO2.
   - Obtain noncontrast head CT.
   - LP if head CT negative for masses, hemorrhage.
   - Cover broadly for possible meningitis or herpes encephalitis for now
   with vancomycin, ceftriaxone, ampicillin, and acyclovir. Hold on
   steroids for now.
   - Treat for possible dystonic reaction with standing IV benztropine and
   benadryl.
   - Hold off on dantrolene for treatment of NMS for now. If CKs rise, has
   fevers, is more rigid, then will consider starting dantrolene.
   - Check UA to r/o myoglobinuria.
   - Appreciate neurology following.
   - EEG tomorrow to r/o seizures.
   - Check TSH (was wnl a few days ago at OSH).
   - Check urine, serum tox.
   - Goal SBPs < 180. Will start standing IV metoprolol (on toprol 100 mg
   daily at home) to avoid rebound tachycardia associated with hydralazine
   as pt is already tachycardic.
   - Avoid neuroleptic agents, benzodiazepenes.
   .
   #) Tachycardia - Patient appears very dry on examination, may be in
   some degree of pain or discomfort, and had been receiving po clonidine
   at OSH for BP control that can cause rebound tachycardia.
   - IVFs with LR @ 150 cc/hr for now.
   - Avoid hydralazine given rebound tachycardia effect.
   - Telemetry monitoring.
   .
   #) Elevated CK - In setting of significant amount of rigidity on exam.
   Cr was initially elevated at OSH, but has improved after treatment of
   UTI.
   - Monitor CK.
   - Check UA.
   - Monitor urine output.
   - IVFs as above.
   .
   #) HTN - With known prior h/o HTN and appears to have been difficult to
   control at OSH. As above, HTN emergency is a diagnostic consideration,
   although would have expected some improvement in MS with better control
   of BPs.
   - Standing IV metoprolol 5 mg q6h as above.
   .
   #) Elevated AST/ALT
 LDH also elevated, AlkPhos/bili wnl. Likely
   muscle source given elevated CK. AST was also elevated at OSH
   supporting h/o EtOH use. Will continue to monitor.
   .
   #) CAD s/p CABG - Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. Continue monitoring on telemetry.
   Standing IV bblocker as above. Add on cardiac enzymes, recheck EKG in
   am.
   .
   #) Depression - Holding home seroquel.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
             with sister [**Name (NI) **] [**Name (NI) 8243**] [**Telephone/Fax (1) 8244**] and daughter [**Name (NI) 670**]
   [**Name (NI) **] [**Telephone/Fax (1) 8245**] (h) and [**Telephone/Fax (1) 8246**] (c)
   Code status: Full code
   Disposition: ICU

2146-05-13 06:56:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - fever downtrending, CK peaked at 3082
   - metoprolol increased, then decreased
   - started hydralazine PRN
   - reduced dantrolene dose per pharmacy
   - intubated for airway protection
   - tox c/s - suggested paralysis (cisatracurium), deferred as CK
   downtrending
   - right radial a-line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2146-5-13**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 61 (60 - 132) bpm
   BP: 137/42(76) {137/37(67) - 168/54(91)} mmHg
   RR: 13 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,089 mL
                                                                  2,224 mL
   PO:
             TF:
   IVF:
                                                                  4,089 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    610 mL
   Urine:
                                                                  1,900 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,189 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/40/175/23/3
   Ve: 4.6 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   203 K/uL
   8.9 g/dL
   91 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   25.4 %
   7.9 K/uL
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
   WBC
   9.1
   7.9
   Hct
   28.3
   25.4
   Plt
   224
   203
   Cr
   1.2
   1.2
   1.0
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   Glucose
   112
   107
   91
   Other labs:
   PT / PTT / INR:12.2/29.3/1.0,
   CK / CKMB / Troponin-T:1510/7/<0.01,
   ALT / AST:41/76, Alk Phos / T Bili:36/0.3, LDH:295 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Micro: no growth
   - EEG - no seizure
   - TTE - LVEF 45%, infero-lateral akinesis, [**11-26**]+ MR
   - EKG - QTc 457
   - CT: Hypodensity in right frontal lobe, consider MRI w gad for further
   eval
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   .
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes new brain mass. CT head with out mets. Per daughter, pt had
   some rigidity before given haldol ([**5-8**]. EEG without seizure. Not
   appearing to have EtOH withdrawal or infection. Pt still w episodic
   tachycardia, hypertension, fevers. CK downtrending. Now improving
   - copious hydration to keep UOP > 50, LR vs NS
   - continue dantrolene
   - standing tylenol, cooling blanket for fever if needed
   - metoprolol/hydralazine for tachycardia/HTN (goal < 160)
   - consider stopping benadryl
   - continue to monitor CK, urine myoglobin
   - consider paralysis, if worsening
   - f/u neuro recs
   - avoid neuroleptics/anticholinergics
   - continue intubation for airway support
   - wean propofol
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - Standing IV metoprolol 5 mg q6h as above.
   - PRN hydralazine
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - Standing IV bblocker as above.
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   - NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
             with sister [**Name (NI) **] [**Name (NI) 8243**] [**Telephone/Fax (1) 8244**] and daughter [**Name (NI) 670**]
   [**Name (NI) **] [**Telephone/Fax (1) 8245**] (h) and [**Telephone/Fax (1) 8246**] (c)
   Code status: Full code
   Disposition: ICU

2146-05-13 06:56:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - fever downtrending, CK peaked at 3082
   - metoprolol increased, then decreased
   - started hydralazine PRN
   - reduced dantrolene dose per pharmacy
   - intubated for airway protection
   - tox c/s - suggested paralysis (cisatracurium), deferred as CK
   downtrending
   - right radial a-line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2146-5-13**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 61 (60 - 132) bpm
   BP: 137/42(76) {137/37(67) - 168/54(91)} mmHg
   RR: 13 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,089 mL
                                                                  2,224 mL
   PO:
             TF:
   IVF:
                                                                  4,089 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    610 mL
   Urine:
                                                                  1,900 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,189 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/40/175/23/3
   Ve: 4.6 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   203 K/uL
   8.9 g/dL
   91 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   25.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
   WBC
   9.1
   7.9
   Hct
   28.3
   25.4
   Plt
   224
   203
   Cr
   1.2
   1.2
   1.0
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   Glucose
   112
   107
   91
   Other labs:
   PT / PTT / INR:12.2/29.3/1.0,
   CK / CKMB / Troponin-T:1510/7/<0.01,
   ALT / AST:41/76, Alk Phos / T Bili:36/0.3, LDH:295 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Micro: no growth
   - EEG - no seizure
   - TTE - LVEF 45%, infero-lateral akinesis, [**11-26**]+ MR
   - EKG - QTc 457
   - CT: Hypodensity in right frontal lobe, consider MRI w gad for further
   eval
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   .
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes new brain mass. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]). Not likely to be seizure, EtOH withdrawal or
   infection. Pt still w episodic tachycardia, hypertension, fevers. CK
   downtrending.
   - copious hydration to keep UOP > 50, LR vs NS
   - continue dantrolene
   - standing tylenol, cooling blanket for fever
   - metoprolol/hydralazine for tachycardia/HTN (goal < 160)
   - continue to monitor CK, urine myoglobin
   - consider paralysis, if worsening
   - f/u neuro recs
   - avoid neuroleptics/anticholinergics
   - continue intubation for airway support
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - Standing IV metoprolol 5 mg q6h as above.
   - PRN hydralazine
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use. Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - Standing IV bblocker as above.
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
             with sister [**Name (NI) **] [**Name (NI) 8243**] [**Telephone/Fax (1) 8244**] and daughter [**Name (NI) 670**]
   [**Name (NI) **] [**Telephone/Fax (1) 8245**] (h) and [**Telephone/Fax (1) 8246**] (c)
   Code status: Full code
   Disposition: ICU

2146-05-14 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Admitted with ? NMS
   Intubated
   Treated with dantrolene
   24 Hour Events:
   Tremors and rigidity when sedation weaned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2146-5-13**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 78 (55 - 86) bpm
   BP: 122/41(67) {122/41(67) - 194/75(126)} mmHg
   RR: 21 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,749 mL
                                                                    346 mL
   PO:
             TF:
             76 mL
   IVF:
                                                                  4,689 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    420 mL
   Urine:
                                                                  2,950 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,799 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 202 (202 - 202) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/159/21/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Intubated, sedated
   Not rigid
   Lung clear
   Hrt rrr
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.8 g/dL
   239 K/uL
   86 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
   WBC
   9.1
   7.9
   10.0
   Hct
   28.3
   25.4
   26.6
   25.6
   Plt
   [**Telephone/Fax (3) 8303**]
   Cr
   1.2
   1.2
   1.0
   1.2
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   25
   Glucose
   112
   107
   91
   86
   Other labs: PT / PTT / INR:12.2/29.3/1.0, CK / CKMB /
   Troponin-T:737/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   CPK 700, down from 3000
   CXR
 obscured L hemidiaphragm
   Assessment and Plan
 ALTERED MENTAL STATUS /rigidity/NMS
 continue dantrolene, tylenol,
   daily trials off of propofol
   HTN
 continue metoprolol
   Resp failure
  continue vent support, extubate once rigidity improves
   Frontal lobe hypodensity
 unclear clinical significance, not thought
   to be an active issue
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-14**] 03:44 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:   39

2146-05-14 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2146-5-13**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 78 (55 - 86) bpm
   BP: 122/41(67) {122/41(67) - 194/75(126)} mmHg
   RR: 21 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,749 mL
                                                                    346 mL
   PO:
             TF:
             76 mL
   IVF:
                                                                  4,689 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    420 mL
   Urine:
                                                                  2,950 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,799 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 202 (202 - 202) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/159/21/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   239 K/uL
   86 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
   WBC
   9.1
   7.9
   10.0
   Hct
   28.3
   25.4
   26.6
   25.6
   Plt
   [**Telephone/Fax (3) 8303**]
   Cr
   1.2
   1.2
   1.0
   1.2
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   25
   Glucose
   112
   107
   91
   86
   Other labs: PT / PTT / INR:12.2/29.3/1.0, CK / CKMB /
   Troponin-T:737/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-14**] 03:44 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2146-05-14 07:40:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - had a trial of decreased propofol to 20, pt then had tremors and
   increased stiffness on right side, raised propofol back to 40 and did
   not decrease dantrolene dose (kept at 150)
   - CK trending down
   - stopped benadryl
   - started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2146-5-13**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-14**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 78 (55 - 86) bpm
   BP: 122/41(67) {122/41(67) - 194/75(126)} mmHg
   RR: 21 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,749 mL
                                                                    347 mL
   PO:
             TF:
             77 mL
   IVF:
                                                                  4,689 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    420 mL
   Urine:
                                                                  2,950 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,799 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 202 (202 - 202) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/159/21/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   239 K/uL
   8.8 g/dL
   86 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
   WBC
   9.1
   7.9
   10.0
   Hct
   28.3
   25.4
   26.6
   25.6
   Plt
   [**Telephone/Fax (3) 8303**]
   Cr
   1.2
   1.2
   1.0
   1.2
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   25
   Glucose
   112
   107
   91
   86
   Other labs: PT / PTT / INR:12.2/29.3/1.0, CK / CKMB /
   Troponin-T:737/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   .
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes new brain mass. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK downtrending. Now improving
   - copious hydration to keep UOP > 50, LR vs NS
   - continue dantrolene
   - standing tylenol, cooling blanket for fever if needed
   - metoprolol/hydralazine for tachycardia/HTN (goal < 160)
   - continue to monitor CK, urine myoglobin
   - consider paralysis, if worsening
   - f/u neuro recs
   - avoid neuroleptics/anticholinergics
   - continue intubation for airway support
   - wean propofol
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - Standing IV metoprolol 5 mg q6h as above.
   - PRN hydralazine
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - Standing IV bblocker as above.
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-14**] 03:44 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
               with sister [**Name (NI) **] [**Name (NI) 8243**] [**Telephone/Fax (1) 8244**] and daughter [**Name (NI) 670**]
   [**Name (NI) **] [**Telephone/Fax (1) 8245**] (h) and [**Telephone/Fax (1) 8246**] (c)
   Code status: Full code
   Disposition: ICU

2146-05-14 07:40:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - had a trial of decreased propofol to 20, pt then had tremors and
   increased stiffness on right side, raised propofol back to 40 and did
   not decrease dantrolene dose (kept at 150)
   - CK trending down
   - stopped benadryl
   - started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-12**] 12:00 AM
   Acyclovir - [**2146-5-12**] 02:23 AM
   Ampicillin - [**2146-5-12**] 06:21 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2146-5-13**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-14**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 78 (55 - 86) bpm
   BP: 122/41(67) {122/41(67) - 194/75(126)} mmHg
   RR: 21 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,749 mL
                                                                    347 mL
   PO:
             TF:
             77 mL
   IVF:
                                                                  4,689 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    420 mL
   Urine:
                                                                  2,950 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,799 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 202 (202 - 202) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/159/21/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   239 K/uL
   8.8 g/dL
   86 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2146-5-12**]  05:06 AM
                             [**2146-5-12**]  04:16 PM
                             [**2146-5-12**]  04:37 PM
                             [**2146-5-12**]  09:37 PM
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
   WBC
   9.1
   7.9
   10.0
   Hct
   28.3
   25.4
   26.6
   25.6
   Plt
   [**Telephone/Fax (3) 8303**]
   Cr
   1.2
   1.2
   1.0
   1.2
   TropT
   0.01
   0.01
   <0.01
   TCO2
   28
   27
   28
   25
   Glucose
   112
   107
   91
   86
   Other labs: PT / PTT / INR:12.2/29.3/1.0, CK / CKMB /
   Troponin-T:737/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   .
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes new brain mass. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK downtrending. Now improving
   - hydration to keep UOP > 50, LR vs NS
   - continue dantrolene, hold off on reducing today
   - standing tylenol
   - continue to monitor CK, urine myoglobin
   - consider paralysis, if worsening
   - f/u neuro recs
   - avoid neuroleptics/anticholinergics
   - continue intubation for airway support
   - wean propofol daily and see if rigidity has resolved
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - Increasing metoprolol to 25 TID
   - PRN hydralazine
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - BB as above
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-14**] 03:44 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
               with sister [**Name (NI) **] [**Name (NI) 8243**] [**Telephone/Fax (1) 8244**] and daughter [**Name (NI) 670**]
   [**Name (NI) **] [**Telephone/Fax (1) 8245**] (h) and [**Telephone/Fax (1) 8246**] (c)
   Code status: Full code
   Disposition: ICU

2146-05-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2146-5-15**] 12:02 AM
 FEVER - 101.5
F - [**2146-5-15**] 12:00 AM
   - increased metoprolol to 25 PO TID
   - tolerated PS 12/5, off propofol trial
   - CK trending down
   - extra hydralazine dose for hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-14**] 03:41 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 11:49 PM
   Hydralazine - [**2146-5-15**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.6
C (99.6
   HR: 66 (66 - 103) bpm
   BP: 104/33(54) {104/30(54) - 187/61(101)} mmHg
   RR: 21 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,713 mL
                                                                    300 mL
   PO:
             TF:
                                                                    800 mL
                                                                    200 mL
   IVF:
                                                                  2,558 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    620 mL
   Urine:
                                                                  1,140 mL
                                                                    420 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                  2,573 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 485) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/27/159/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   239 K/uL
   8.8 g/dL
   137 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   25.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
   WBC
   7.9
   10.0
   12.6
   Hct
   25.4
   26.6
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 8323**]
   Cr
   1.0
   1.2
   1.5
   1.4
   TropT
   <0.01
   TCO2
   28
   25
   21
   22
   22
   Glucose
   91
   86
   137
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:380/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   .
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes new brain mass. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK downtrending. Now improving
   - hydration to keep UOP > 50, LR vs NS
   - continue dantrolene, hold off on reducing today
   - standing tylenol
   - continue to monitor CK, urine myoglobin
   - consider paralysis, if worsening
   - f/u neuro recs
   - avoid neuroleptics/anticholinergics
   - continue intubation for airway support
   - wean propofol daily and see if rigidity has resolved
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - Increasing metoprolol to 25 TID
   - PRN hydralazine
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - BB as above
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-15 07:25:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - increased metoprolol to 25 PO TID
   - tolerated PS 12/5, off propofol trial
   - CK trending down
   - extra hydralazine dose for hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-14**] 03:41 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-14**] 11:49 PM
   Hydralazine - [**2146-5-15**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.6
C (99.6
   HR: 66 (66 - 103) bpm
   BP: 104/33(54) {104/30(54) - 187/61(101)} mmHg
   RR: 21 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,713 mL
                                                                    300 mL
   PO:
             TF:
                                                                    800 mL
                                                                    200 mL
   IVF:
                                                                  2,558 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    620 mL
   Urine:
                                                                  1,140 mL
                                                                    420 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                  2,573 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 485) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/27/159/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   239 K/uL
   8.8 g/dL
   137 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   25.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
   WBC
   7.9
   10.0
   12.6
   Hct
   25.4
   26.6
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 8323**]
   Cr
   1.0
   1.2
   1.5
   1.4
   TropT
   <0.01
   TCO2
   28
   25
   21
   22
   22
   Glucose
   91
   86
   137
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:380/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # Fever, respiratory distress: difficult to wean from intubation likely
   in the setting of new VAP/HAP
   - start vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, decrease FiO2 to 30%
   - d/c propofol
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes brain mass/stroke. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK downtrending. Now improving
   - hydration to keep UOP > 50, LR vs NS
   - continue dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - BB as above
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-15 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2146-5-15**] 12:02 AM
 FEVER - 101.5
F - [**2146-5-15**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-14**] 03:41 PM
   Hydralazine - [**2146-5-15**] 12:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-15**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.4
C (97.5
   HR: 71 (66 - 103) bpm
   BP: 130/39(67) {104/30(54) - 187/61(101)} mmHg
   RR: 38 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,713 mL
                                                                  1,264 mL
   PO:
             TF:
                                                                    800 mL
                                                                    283 mL
   IVF:
                                                                  2,558 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    680 mL
   Urine:
                                                                  1,140 mL
                                                                    480 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                  2,573 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 485) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/27/159/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   239 K/uL
   137 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   25.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
   WBC
   7.9
   10.0
   12.6
   Hct
   25.4
   26.6
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 8323**]
   Cr
   1.0
   1.2
   1.5
   1.4
   TropT
   <0.01
   TCO2
   28
   25
   21
   22
   22
   Glucose
   91
   86
   137
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:380/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-15**] 06:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2146-05-15 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PAN CULTURE - At [**2146-5-15**] 12:02 AM
 FEVER - 101.5
F - [**2146-5-15**] 12:00 AM
   Worsening secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-14**] 03:41 PM
   Hydralazine - [**2146-5-15**] 12:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-15**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.4
C (97.5
   HR: 71 (66 - 103) bpm
   BP: 130/39(67) {104/30(54) - 187/61(101)} mmHg
   RR: 38 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,713 mL
                                                                  1,264 mL
   PO:
             TF:
                                                                    800 mL
                                                                    283 mL
   IVF:
                                                                  2,558 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    680 mL
   Urine:
                                                                  1,140 mL
                                                                    480 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                  2,573 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 485) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/27/159/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Intubated, sedated
   Lungs decreased BS
s at bases
   Hrt  rrr
   Abd  benign
   Extrem no edema
   Labs / Radiology
   8.8 g/dL
   239 K/uL
   137 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   25.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
   WBC
   7.9
   10.0
   12.6
   Hct
   25.4
   26.6
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 8323**]
   Cr
   1.0
   1.2
   1.5
   1.4
   TropT
   <0.01
   TCO2
   28
   25
   21
   22
   22
   Glucose
   91
   86
   137
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:380/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   CXR new subtle lower lobe infiltrates
   Assessment and Plan
 ALTERED MENTAL STATUS /rigidity/NMS
 continue dantrolene, tylenol,
   CK continues to improve
   New VAP
 increase fevers, WBC and new bibasilar infiltrates, start
   vanco/zosyn, repeat sputum
   HTN
 continue metoprolol
   Resp failure
  continue vent support, extubate once mental status
   improves
   Frontal lobe hypodensity
 unclear clinical significance, not thought
   to be an active issue
   Hyponatremia
 check urine lytes and osms
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-15**] 06:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:   39

2146-05-15 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2146-5-15**] 12:02 AM
 FEVER - 101.5
F - [**2146-5-15**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-14**] 03:41 PM
   Hydralazine - [**2146-5-15**] 12:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-15**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.4
C (97.5
   HR: 71 (66 - 103) bpm
   BP: 130/39(67) {104/30(54) - 187/61(101)} mmHg
   RR: 38 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,713 mL
                                                                  1,264 mL
   PO:
             TF:
                                                                    800 mL
                                                                    283 mL
   IVF:
                                                                  2,558 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    680 mL
   Urine:
                                                                  1,140 mL
                                                                    480 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                  2,573 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 432 (432 - 485) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/27/159/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Intubated, sedated
   Lungs
   Hrt
   Abd
   extrem
   Labs / Radiology
   8.8 g/dL
   239 K/uL
   137 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   24 mg/dL
   103 mEq/L
   131 mEq/L
   25.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2146-5-12**]  10:54 PM
                             [**2146-5-13**]  04:13 AM
                             [**2146-5-13**]  02:09 PM
                             [**2146-5-14**]  04:02 AM
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
   WBC
   7.9
   10.0
   12.6
   Hct
   25.4
   26.6
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 8323**]
   Cr
   1.0
   1.2
   1.5
   1.4
   TropT
   <0.01
   TCO2
   28
   25
   21
   22
   22
   Glucose
   91
   86
   137
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:380/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS /rigidity/NMS
 continue dantrolene, tylenol,
   daily trials off of propofol, CK continues to improve
   HTN
 continue metoprolol
   Resp failure
  continue vent support, extubate once rigidity improves
   Frontal lobe hypodensity
 unclear clinical significance, not thought
   to be an active issue
   Hyponatremia -
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-5-15**] 06:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:   39

2146-05-16 07:13:00 Physician Resident Progress Note
24 Hour Events:
 SPUTUM CULTURE - At [**2146-5-15**] 10:30 AM
   - when off propofol, no improvement in mental status
   - spiked, tan sputum -> started Vanc/Zosyn for VAP, sputum sent
   - PICC by IR tomorrow
   - Based on ABGs -> decreased FiO2 to 30%, PSV 10/5 (did not tolerate
   [**3-29**])
   - No neuro recs
   - Na 131 -> lytes, osmo and exam consistent with hypervol hypoNa
   (dantrolene mixed in free water)
   - Stopped Dantrolene following discussion with tox
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-15**] 11:56 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (69 - 91) bpm
   BP: 91/37(55) {91/33(55) - 174/52(88)} mmHg
   RR: 17 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,562 mL
                                                                    151 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                     19 mL
   IVF:
                                                                  1,956 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    860 mL
   Urine:
                                                                  1,910 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (380 - 476) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/30/114/19/-1
   Ve: 7.1 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: elderly woman, intubated, unresponsive, eyes open
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, with some limb stiffness
   Skin: warm, no rashes
   Labs / Radiology
   262 K/uL
   8.5 g/dL
   109 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   28 mg/dL
   105 mEq/L
   135 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
   WBC
   12.6
   13.1
   Hct
   25.9
   25.3
   Plt
   239
   262
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   25
   21
   22
   22
   22
   21
   Glucose
   137
   147
   109
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:1210/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.8 mmol/L, LDH:289 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Sputum [**5-15**]- yeast
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient continues to be minimally
   responsive without purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was stopped yesterday. CK now elevated
   after dantrolene was stopped. Too far out for EtOH withdrawal. Pt still
   w episodic tachycardia, hypertension, fevers (see infection work-up as
   below).
   - hydration to keep UOP > 50, LR vs NS
   - restart dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # Fever, respiratory distress: Fever curve down trending. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, on PS 5/5, FiO2 to 30%, try
   SBT
   - holding sedation
   - PICC placement for antibiotics
   # Hyponatremia: Resolved, however will have to monitor with restarting
   Dantrolene (only perpared in free water).
   # HTN: Improving. Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   -monitor LFTs tomorrow.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - BB
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: prevacid
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2146-05-16 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-5-15**] 10:30 AM
   - when off propofol, no improvement in mental status
   - spiked, tan sputum -> started Vanc/Zosyn for VAP, sputum sent
   - PICC by IR tomorrow
   - Based on ABGs -> decreased FiO2 to 30%, PSV 10/5 (did not tolerate
   [**3-29**])
   - No neuro recs
   - Na 131 -> lytes, osmo and exam consistent with hypervol hypoNa
   (dantrolene mixed in free water)
   - Stopped Dantrolene following discussion with tox
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-15**] 11:56 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (69 - 91) bpm
   BP: 91/37(55) {91/33(55) - 174/52(88)} mmHg
   RR: 17 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,562 mL
                                                                    151 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                     19 mL
   IVF:
                                                                  1,956 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    860 mL
   Urine:
                                                                  1,910 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (380 - 476) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/30/114/19/-1
   Ve: 7.1 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: elderly woman, intubated, unresponsive, eyes open
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, with some limb stiffness
   Skin: warm, no rashes
   Labs / Radiology
   262 K/uL
   8.5 g/dL
   109 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   28 mg/dL
   105 mEq/L
   135 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
   WBC
   12.6
   13.1
   Hct
   25.9
   25.3
   Plt
   239
   262
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   25
   21
   22
   22
   22
   21
   Glucose
   137
   147
   109
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:1210/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.8 mmol/L, LDH:289 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Sputum [**5-15**]- yeast
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # Fever, respiratory distress: difficult to wean from intubation likely
   in the setting of new VAP/HAP. Sputum so far growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, on PS 5/5, FiO2 to 30%
   - holding sedation
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes brain mass/stroke. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK now elevated after dantrolene was stopped.
   - hydration to keep UOP > 50, LR vs NS
   - restart dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - BB as above
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-16 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-5-15**] 10:30 AM
   - when off propofol, no improvement in mental status
   - spiked, tan sputum -> started Vanc/Zosyn for VAP, sputum sent
   - PICC by IR tomorrow
   - Based on ABGs -> decreased FiO2 to 30%, PSV 10/5 (did not tolerate
   [**3-29**])
   - No neuro recs
   - Na 131 -> lytes, osmo and exam consistent with hypervol hypoNa
   (dantrolene mixed in free water)
   - Stopped Dantrolene following discussion with tox
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-15**] 11:56 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-15**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (69 - 91) bpm
   BP: 91/37(55) {91/33(55) - 174/52(88)} mmHg
   RR: 17 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,562 mL
                                                                    151 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                     19 mL
   IVF:
                                                                  1,956 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    860 mL
   Urine:
                                                                  1,910 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (380 - 476) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/30/114/19/-1
   Ve: 7.1 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: elderly woman, intubated, sedated, unresponsive
   CV: RRR, no murmurs
   Chest: CTA anterioroly
   Abd: soft, mild distention
   Ext: no LE edema, WWP, 2+ distal pulses, still rigid
   Skin: warm, no rashes
   Labs / Radiology
   262 K/uL
   8.5 g/dL
   109 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   28 mg/dL
   105 mEq/L
   135 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
   WBC
   12.6
   13.1
   Hct
   25.9
   25.3
   Plt
   239
   262
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   25
   21
   22
   22
   22
   21
   Glucose
   137
   147
   109
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:1210/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.8 mmol/L, LDH:289 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # Fever, respiratory distress: difficult to wean from intubation likely
   in the setting of new VAP/HAP
   - start vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, decrease FiO2 to 30%
   - d/c propofol
   # AMS/rigidity: likely [**12-27**] neuroleptic malignant syndrome, though ddx
   includes brain mass/stroke. Per daughter, pt had some rigidity before
   given haldol ([**5-8**]. EEG without seizure. Not appearing to have EtOH
   withdrawal or infection. Pt still w episodic tachycardia, hypertension,
   fevers. CK downtrending. Now improving
   - hydration to keep UOP > 50, LR vs NS
   - continue dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # HTN: Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: likely dilutional in the setting of anemia of chronic disease
   (Hct 33 on admission, down to 25).
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   - Will continue to monitor.
   .
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. No
   clear evidence of ischemia on EKG. CE negative x 3.
   - Continue monitoring on telemetry.
   - BB as above
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-16 10:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Perhaps more rigidity this AM, but overall improved since admission.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-15**] 11:56 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2146-5-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-16**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 82 (70 - 91) bpm
   BP: 126/45(73) {91/33(55) - 174/52(88)} mmHg
   RR: 21 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,562 mL
                                                                    224 mL
   PO:
             TF:
                                                                  1,181 mL
                                                                     19 mL
   IVF:
                                                                  1,956 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,095 mL
   Urine:
                                                                  1,910 mL
                                                                    695 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 476 (408 - 476) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 48
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.45/30/114/19/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   8.5 g/dL
   262 K/uL
   109 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   28 mg/dL
   105 mEq/L
   135 mEq/L
   25.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2146-5-14**]  04:31 AM
                             [**2146-5-14**]  02:57 PM
                             [**2146-5-14**]  04:59 PM
                             [**2146-5-14**]  05:09 PM
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
   WBC
   12.6
   13.1
   Hct
   25.9
   25.3
   Plt
   239
   262
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   25
   21
   22
   22
   22
   21
   Glucose
   137
   147
   109
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:1210/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.8 mmol/L, LDH:289 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains mechanically ventilated, intubated for
   airway protection.  Await clearance of sedatives.  Hope to work towards
   SBT and extubation trial.
    MUSCULAR RIGIDITY -- attributed to NMS.  Resume dantrolene.  Monitor
   CPK.
   ALTERED MENTAL STATUS -- stable.  Remains removed.  Frontal hypodensity
   may be contributing to withdrawn state (unclear timing of CNS lesion).
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-12**] 12:43 AM
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-05-17 06:12:00 Physician Resident Progress Note
Chief Complaint: NMS
   24 Hour Events:
   - became more arrousable, sometimes interactive
   - less movement on left side of body, per neuro will order MRI/MRA head
   when more stable
   - PICC line will be placed by IR on [**5-17**]
   - plan for extuabtion in AM on [**5-17**], after SBT
   - started back on dantrolene since CK was 1210, then in PM was 724
   - remained off propofol, PRN fentnyl boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 86 (67 - 93) bpm
   BP: 148/55(92) {111/40(64) - 170/69(103)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                    810 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    290 mL
   Urine:
                                                                  1,455 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 141 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   8.3 g/dL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient continues to be minimally
   responsive without purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was stopped yesterday. CK now elevated
   after dantrolene was stopped. Too far out for EtOH withdrawal. Pt still
   w episodic tachycardia, hypertension, fevers (see infection work-up as
   below).
   - hydration to keep UOP > 50, LR vs NS
   - restart dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # Fever, respiratory distress: Fever curve down trending. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, on PS 5/5, FiO2 to 30%, try
   SBT
   - holding sedation
   - PICC placement for antibiotics
   # Hyponatremia: Resolved, however will have to monitor with restarting
   Dantrolene (only perpared in free water).
   # HTN: Improving. Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   -monitor LFTs tomorrow.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - BB
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-17 06:12:00 Physician Resident Progress Note
Chief Complaint: NMS
   24 Hour Events:
   -pt extubated
   -neuro status improving, pt responsive and able to move all four
   extremities
   - PICC line will be placed by IR on [**5-17**]
   - started back on dantrolene since CK was 1210, then in PM was 724
   - remained off propofol, PRN fentnyl boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 86 (67 - 93) bpm
   BP: 148/55(92) {111/40(64) - 170/69(103)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                    810 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    290 mL
   Urine:
                                                                  1,455 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 141 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Gen: Responsive, lying comfortably in bed, extubated
   HEENT: EOMI, MMM
   PULM: CTA B
   CV: MMM, tachycardic, no MRG
   ABD: soft, non-tender ND
   EXT: anasarcic, RUE is errythematous, tender to palpation
   NEURO: peripheral sensation intact,  strength 2/5 in all extremities.
   No appreciable differences between R and L side
   Periipheral Vascular: Radial pulses strong bilaterally
   Skin:  Rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   8.3 g/dL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, and depression, who initially
   was admitted with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient continues to be minimally
   responsive without purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was stopped yesterday. CK now elevated
   after dantrolene was stopped. Too far out for EtOH withdrawal. Pt still
   w episodic tachycardia, hypertension, fevers (see infection work-up as
   below).
   - hydration to keep UOP > 50, LR vs NS
   - restart dantrolene
   - standing tylenol
   - continue to monitor CK
   - f/u neuro recs
   - f/u tox recs
   - avoid neuroleptics/anticholinergics
   - consider MRI brain
   # Fever, respiratory distress: Fever curve down trending. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - check bl cx, urine cx, sputum cx
   - continue intubation for airway support, on PS 5/5, FiO2 to 30%, try
   SBT
   - holding sedation
   - PICC placement for antibiotics
   # Hyponatremia: Resolved, however will have to monitor with restarting
   Dantrolene (only perpared in free water).
   # HTN: Improving. Prior h/o HTN, currently in the setting of NMS.
   - metoprolol to 25 TID
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.
   -monitor LFTs tomorrow.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - BB
   .
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-17 06:12:00 Physician Resident Progress Note
Chief Complaint: NMS, pt continues to improve clinically with
   dantrolene
   24 Hour Events:
   -pt extubated
   -neuro status improving, pt responsive and able to move all four
   extremities
   -nurses with difficulty accessing current lines
   -started back on dantrolene since CK was 1210, then in PM was 724
   -remained off propofol, PRN fentanyl boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 86 (67 - 93) bpm
   BP: 148/55(92) {111/40(64) - 170/69(103)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                    810 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    290 mL
   Urine:
                                                                  1,455 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 141 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Gen: Responsive, lying comfortably in bed, extubated
   HEENT: EOMI, MMM
   PULM: CTA B
   CV: reg rhythm, tachycardic, no MRG
   ABD: soft, non-tender ND
   EXT: anasarcic, RUE is errythematous, tender to palpation
   NEURO: peripheral sensation intact,  strength 2/5 in all extremities.
   No appreciable differences between R and L side
   Periipheral Vascular: Radial pulses strong bilaterally
   Skin:  errythema of RUE
   Labs / Radiology
   321 K/uL
   8.3 g/dL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient has had improved responsiveness
   and is able to initiate purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was restarted yesterday due to upward
   trend in CK.  Pt still w/ episodic tachycardia, hypertension, fevers
   improved.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement, will consider restarting if pts condition worsens
   or CPKs trend up
   - standing tylenol
   - f/u neuro recs, will discuss need for brain MRI to f/u on hypodensity
   found on last head CT.
   - avoid neuroleptics/anticholinergics
   # Fever, respiratory distress: Pt intubated without complication today
   and is afebrile today. Sputum so far growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # Hyponatremia: Resolved, however concern for potential worsening given
   the need for free water administration when the patient receives
   dantrolene.
   -afternoon [**Last Name (LF) **], [**First Name3 (LF) **] continue to follow.
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE Cellulitis: Pt with new errythema of RUE.  Concern for
   cellulitis, thrombophlebitis less likely given that patient has not had
   any lines placed in that area recently.  DVT also unlikely given no
   asymmetry to pt
s UE edema.  Peripheral pulses intact.  Pt covered for
   cellulitis by vanco.
   -continue abx
   -will place PICC in L arm to avoid introducing bloodstream infection
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition: Liquids as tolerated
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with daughter, [**Name (NI) 670**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition:

2146-05-17 06:12:00 Physician Resident Progress Note
Chief Complaint: NMS
   24 Hour Events:
   - became more arrousable, sometimes interactive
   - less movement on left side of body, per neuro will order MRI/MRA head
   when more stable
   - PICC line will be placed by IR on [**5-17**]
   - plan for extuabtion in AM on [**5-17**], after SBT
   - started back on dantrolene since CK was 1210, then in PM was 724
   - remained off propofol, PRN fentnyl boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 86 (67 - 93) bpm
   BP: 148/55(92) {111/40(64) - 170/69(103)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                    810 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    290 mL
   Urine:
                                                                  1,455 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 141 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   8.3 g/dL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-17 06:12:00 Physician Resident Progress Note
Chief Complaint: NMS, pt continues to improve clinically with
   dantrolene
   24 Hour Events:
   -pt extubated
   -neuro status improving, pt responsive and able to move all four
   extremities
   -nurses with difficulty accessing current lines
   -started back on dantrolene since CK was 1210, then in PM was 724
   -remained off propofol, PRN fentanyl boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-15**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 86 (67 - 93) bpm
   BP: 148/55(92) {111/40(64) - 170/69(103)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                    810 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    290 mL
   Urine:
                                                                  1,455 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 141 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Gen: Responsive, lying comfortably in bed, extubated
   HEENT: EOMI, MMM
   PULM: CTA B
   CV: reg rhythm, tachycardic, no MRG
   ABD: soft, non-tender ND, +BS
   EXT: anasarcic, RUE is errythematous, tender to palpation
   NEURO: peripheral sensation intact,  strength 2/5 in all extremities.
   No appreciable differences between R and L side
   Periipheral Vascular: Radial pulses strong bilaterally
   Skin:  errythema of RUE
   Labs / Radiology
   321 K/uL
   8.3 g/dL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient has had improved responsiveness
   and is able to initiate purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was restarted yesterday due to upward
   trend in CK.  Pt still w/ episodic tachycardia, hypertension, fevers
   improved.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement, will consider restarting if pts condition worsens
   or CPKs trend up
   - standing tylenol
   - f/u neuro recs, will discuss need for brain MRI to f/u on hypodensity
   found on last head CT.
   - avoid neuroleptics/anticholinergics
   # Fever, respiratory distress: Pt intubated without complication today
   and is afebrile today. Sputum so far growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # Hyponatremia: Resolved, however concern for potential worsening given
   the need for free water administration when the patient receives
   dantrolene.
   -afternoon [**Last Name (LF) **], [**First Name3 (LF) **] continue to follow.
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE Cellulitis: Pt with new errythema of RUE.  Concern for
   cellulitis, thrombophlebitis less likely given that patient has not had
   any lines placed in that area recently.  DVT also unlikely given no
   asymmetry to pt
s UE edema.  Peripheral pulses intact.  Pt covered for
   cellulitis by vanco.
   -continue abx
   -will place PICC in L arm to avoid introducing bloodstream infection
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition: Liquids as tolerated
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with daughter, [**Name (NI) 670**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition:

2146-05-17 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake, more interactive this AM.  Tolerating SBT this AM.
   Less motor muscle rigidity this AM.
   Demonstrates fleeting neurologic motor findings.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Vancomycin - [**2146-5-17**] 07:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypertension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-17**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 81 (67 - 93) bpm
   BP: 148/54(91) {116/40(65) - 170/69(103)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    540 mL
   Urine:
                                                                  1,455 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Able to move all extremities;
   much less rigid
   Labs / Radiology
   8.3 g/dL
   321 K/uL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains mechanically ventilated, intubated for
   airway protection.  Sedatives decreased.  Tolerating SBT --> extubation
   trial now.
   MUSCULAR RIGIDITY -- attributed to NMS.  Improved on dantrolene -->
   ?necessary duration of treatment.  Monitor CPK.  Avoid neuroleptics.
   ALTERED MENTAL STATUS -- much improved.  Frontal hypodensity may have
   contributed to withdrawn state (unclear timing of CNS lesion).
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn to complete course.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-05-17 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake, more interactive this AM.  Tolerating SBT this AM.
   Less motor muscle rigidity this AM.
   Demonstrates fleeting neurologic motor findings.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Vancomycin - [**2146-5-17**] 07:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypertension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-17**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 81 (67 - 93) bpm
   BP: 148/54(91) {116/40(65) - 170/69(103)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    540 mL
   Urine:
                                                                  1,455 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Able to move all extremities;
   much less rigid
   Labs / Radiology
   8.3 g/dL
   321 K/uL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains mechanically ventilated, intubated for
   airway protection.  Sedatives decreased.  Toerating SBT --> extubation
   trial now.
   MUSCULAR RIGIDITY -- attributed to NMS.  Improved on dantrolene -->
   ?necessary duration of treatment.  Monitor CPK.  Avoid neuroleptics.
   ALTERED MENTAL STATUS -- much improved.  Frontal hypodensity may have
   contributed to withdrawn state (unclear timing of CNS lesion).
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn to complete course.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-05-17 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake, more interactive this AM.  Tolerating SBT this AM.
   Less motor muscle rigidity this AM.
   Demonstrates fleeting neurologic motor findings.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-17**] 06:00 AM
   Vancomycin - [**2146-5-17**] 07:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-5-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypertension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-17**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 81 (67 - 93) bpm
   BP: 148/54(91) {116/40(65) - 170/69(103)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    929 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    750 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    540 mL
   Urine:
                                                                  1,455 mL
                                                                    540 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (141 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/33/101/18/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Able to move all extremities;
   much less rigid
   Labs / Radiology
   8.3 g/dL
   321 K/uL
   91 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-15**]  04:26 AM
                             [**2146-5-15**]  04:43 AM
                             [**2146-5-15**]  11:05 AM
                             [**2146-5-15**]  04:45 PM
                             [**2146-5-16**]  04:26 AM
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
   WBC
   12.6
   13.1
   11.3
   Hct
   25.9
   25.3
   25.2
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   1.4
   1.5
   1.4
   1.1
   1.2
   TCO2
   22
   22
   21
   20
   21
   Glucose
   137
   147
   109
   91
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains mechanically ventilated, intubated for
   airway protection.  Sedatives decreased.  Tolerating SBT --> extubation
   trial now.
   MUSCULAR RIGIDITY -- attributed to NMS.  Improved on dantrolene -->
   ?necessary duration of treatment.  Monitor CPK.  Avoid neuroleptics.
   ALTERED MENTAL STATUS -- much improved.  Frontal hypodensity may have
   contributed to withdrawn state (unclear timing of CNS lesion).
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn to complete course.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-5-12**] 12:44 AM
   Arterial Line - [**2146-5-12**] 07:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Note (Addendum):
   Pt. successfully extubated this AM.  Tolerated well, hoarse voice, but
   good cough and able to clear oral secretions.
   This afternoon, experienced tachycardia (A-fib with RVR) and
   hypertension, evolving respiratory distress.  Transient HR reduction
   with iv Diltiazem bolus.  No chest pain.  Not previously know to have
   A-fib.  RR= 20-26 SaO2= >95% on FM.  Lung exam with inspiratory
   crackles.
   Plan:  Concern for cardiac ischemia, evolving pulmonary edema.
   Optimize medications, may require Diltiazem drip to control HR.  IV
   lasix, monitor I/O, electrolytes.   Check CXR, check cardiac echo.
   Monitor serial ECG, CPK and troponin to assess for cardiac injury.
   Hopefully will not require reintubation.  Family updated.
   Total time providing critical care= 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2146-5-17**] 17:29 ------

2146-05-18 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -extubated without complication [**5-17**]
   -developed afib with RVR prior to picc placement, rate did not respond
   to metoprolol, therefore started on dilt drip at 10 mg/hr, increased to
   15 mg/hr with no significant response, therefore amiodarone drip
   started.  Later EKG suggests aflutter. Given additional lopressor 5 mg
   IV X 1 for HR to 180s at 0300. SBP 160s, pt assymptomatic. ekg with
   afib with rvr. started digoxin load.
   -PICC placed
   -tox recommended holding dantrolene given clinical improvement.  Pts
   weakness improved and CK continues to trend down.
   -sodium stable
   -pt agitated with waxing and [**Doctor Last Name 533**] consciousness, pulled art line
   -RU extremity erythema and induration: thrombophlebitis vs. DVT. Assess
   with RU extremity Doppler
   -Cardiology consulted for possible cardioversion of new onset atrial
   flutter.  Started on heparin for anticoagulation, stopped digoxin as
   per cardiology request.  Cardioversion planned for this pm or tomorrow
   am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-17**] 07:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-18**] 12:02 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Diltiazem - [**2146-5-17**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 12:00 AM
   Metoprolol - [**2146-5-18**] 03:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-18**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 126 (76 - 156) bpm
   BP: 135/50(66) {135/50(66) - 151/61(84)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,713 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,593 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    380 mL
   Urine:
                                                                  1,690 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                    -81 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.45/31/121/20/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General: A+O x 2, NAD
   HEENT: PERRL, dry mucus membranes
   CV: tachycardic, RRR, no murmurs auscultated
   Abdomen: soft/NT/ND +BS, no appreciable organomegaly
   Ext: erythema and induratuion right antecubital fossa, tender to
   palpation, radial pulse +2; nonblanching erythema, nontender to
   palpation surrounding LUE picc line
   Labs / Radiology
   397 K/uL
   8.6 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   24.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
   WBC
   11.3
   12.4
   Hct
   25.2
   24.6
   Plt
   321
   397
   Cr
   1.1
   1.2
   1.1
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   21
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:257/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: likely [**12-27**] NMS from Halidol received in outside
   facility.  Improved responsiveness with resolution of purposeful
   movement off sedation and with dantrolene.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement and decreased CPK, will consider restarting if pts
   condition worsens or CPKs trend up
   - standing tylenol
   - avoid neuroleptics/anticholinergics: for agitation consider judicious
   use of ativan
   # Atrial Flutter: patient stable and asymptomatic, trops wnl
   - planned cardioversion with conscious sedation today pm or tomorrow am
   -anticoagulation with heparin and rate control with amiodarone drip and
   diltiazem
   -etiology: blood cx , UA and cx., sputum cx to r/o infection; TFT wnl
   # hypodensity right frontal lobe on Head CT: old infarct vs. underlying
   mass
   - neuro following, appreciate recs
   - if pt. unable to have MRI ([**12-27**] b/l total knee replacement and screws
   in ankles), consider noncontrast head CT with thin cuts
   # Fever, respiratory distress [**12-27**] presumed pneumonia: Pt extubated
   without complication yesterday and is afebrile today. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - CXR show interval improvement in LLL density
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE thrombosis: Doppler show thrombosis in brachialcephalic vein not
   extending to deep veins
   -on heparin for A. flutter
   -cold packs to affected area
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition: NPO pending cardioversion
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT: on heparin for anticoagulation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-18 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2146-5-17**] 09:16 AM
 ANGIOGRAPHY - At [**2146-5-17**] 02:00 PM
   To IR for PICC insertion.
 EKG - At [**2146-5-17**] 03:50 PM
 EKG - At [**2146-5-17**] 03:55 PM
 PICC LINE - START [**2146-5-17**] 04:23 PM
 EKG - At [**2146-5-17**] 07:42 PM
 EKG - At [**2146-5-18**] 03:20 AM
 ARTERIAL LINE - STOP [**2146-5-18**] 04:48 AM
   [**5-17**]
   -extubated without complication
   -developed afib with RVR prior to picc placement, rate did not respond
   to metoprolol, therefore started on dilt drip at 10 mg/hr, increased to
   15 mg/hr with no significant response, therefore amiodarone drip
   started.  Later EKG suggests aflutter.
   -PICC placed
   -tox recommended holding dantrolene given clinical improvement.  Pts
   weakness improved and CK continues to trend down.
   -sodium stable
   -given additional lopressor 5 mg IV X 1 for HR to 180s at 0300. SBP
   160s, pt assymptomatic. ekg with afib with rvr. started digoxin load.
   -pt pulled art line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-17**] 07:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-18**] 12:02 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Diltiazem - [**2146-5-17**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 12:00 AM
   Metoprolol - [**2146-5-18**] 03:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-18**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 126 (76 - 156) bpm
   BP: 135/50(66) {135/50(66) - 151/61(84)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,713 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,593 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    380 mL
   Urine:
                                                                  1,690 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                    -81 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.45/31/121/20/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   397 K/uL
   8.6 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   24.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
   WBC
   11.3
   12.4
   Hct
   25.2
   24.6
   Plt
   321
   397
   Cr
   1.1
   1.2
   1.1
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   21
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:257/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: Off sedation patient has had improved responsiveness
   and is able to initiate purposeful movement.  Likely [**12-27**] neuroleptic
   malignant syndrome, dantrolene was restarted yesterday due to upward
   trend in CK.  Pt still w/ episodic tachycardia, hypertension, fevers
   improved.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement, will consider restarting if pts condition worsens
   or CPKs trend up
   - standing tylenol
   - f/u neuro recs, will discuss need for brain MRI to f/u on hypodensity
   found on last head CT.
   - avoid neuroleptics/anticholinergics
   # Fever, respiratory distress: Pt intubated without complication today
   and is afebrile today. Sputum so far growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # Hyponatremia: Resolved, however concern for potential worsening given
   the need for free water administration when the patient receives
   dantrolene.
   -afternoon [**Last Name (LF) **], [**First Name3 (LF) **] continue to follow.
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE Cellulitis: Pt with new errythema of RUE.  Concern for
   cellulitis, thrombophlebitis less likely given that patient has not had
   any lines placed in that area recently.  DVT also unlikely given no
   asymmetry to pt
s UE edema.  Peripheral pulses intact.  Pt covered for
   cellulitis by vanco.
   -continue abx
   -will place PICC in L arm to avoid introducing bloodstream infection
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-18 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2146-5-17**] 09:16 AM
 ANGIOGRAPHY - At [**2146-5-17**] 02:00 PM
   To IR for PICC insertion.
 EKG - At [**2146-5-17**] 03:50 PM
 EKG - At [**2146-5-17**] 03:55 PM
 PICC LINE - START [**2146-5-17**] 04:23 PM
 EKG - At [**2146-5-17**] 07:42 PM
 EKG - At [**2146-5-18**] 03:20 AM
 ARTERIAL LINE - STOP [**2146-5-18**] 04:48 AM
   [**5-17**]
   -extubated without complication
   -developed afib with RVR prior to picc placement, rate did not respond
   to metoprolol, therefore started on dilt drip at 10 mg/hr, increased to
   15 mg/hr with no significant response, therefore amiodarone drip
   started.  Later EKG suggests aflutter.
   -PICC placed
   -tox recommended holding dantrolene given clinical improvement.  Pts
   weakness improved and CK continues to trend down.
   -sodium stable
   -given additional lopressor 5 mg IV X 1 for HR to 180s at 0300. SBP
   160s, pt assymptomatic. ekg with afib with rvr. started digoxin load.
   -pt pulled art line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-17**] 07:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-18**] 12:02 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Diltiazem - [**2146-5-17**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 12:00 AM
   Metoprolol - [**2146-5-18**] 03:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-18**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 126 (76 - 156) bpm
   BP: 135/50(66) {135/50(66) - 151/61(84)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,713 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,593 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    380 mL
   Urine:
                                                                  1,690 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                    -81 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.45/31/121/20/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   397 K/uL
   8.6 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   24.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
   WBC
   11.3
   12.4
   Hct
   25.2
   24.6
   Plt
   321
   397
   Cr
   1.1
   1.2
   1.1
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   21
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:257/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-18 09:44:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued to experience A-fib/flutter throughout evening and night.
   Limited response to lopressor, diltiazem drip, but eventually rate
   contolled with amioderone.
   Remains on amioderone drip.
   Cardiology (EP) service consulted.
   Remains extubated.  No respiratory distress.  Only requring 2 L NP.
   Muscular rigidity improved.  Now off dantrolene.
   Self d/c'd a-line without incident.
   Voice stronger today.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-18**] 06:00 AM
   Vancomycin - [**2146-5-18**] 09:06 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Diltiazem - [**2146-5-17**] 04:10 PM
   Metoprolol - [**2146-5-18**] 03:18 AM
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-18**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 129 (91 - 156) bpm
   BP: 152/83(97) {135/50(66) - 157/83(97)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,713 mL
                                                                    759 mL
   PO:
             TF:
   IVF:
                                                                  1,593 mL
                                                                    759 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    620 mL
   Urine:
                                                                  1,690 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.45/31/121/20/0
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, voice less hoarse
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   Swollen, indurated RUE
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox1, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   397 K/uL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   24.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:47 AM
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
   WBC
   11.3
   12.4
   Hct
   25.2
   24.6
   Plt
   321
   397
   Cr
   1.1
   1.2
   1.1
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   21
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   Other labs: PT / PTT / INR:11.9/29.2/1.0, CK / CKMB /
   Troponin-T:257/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- improving s/p extubation.
   MUSCULAR RIGIDITY -- attributed to NMS.  Improved on dantrolene -->
   ?necessary duration of treatment.  Monitor CPK.  Avoid neuroleptics.
   Improved.
   ALTERED MENTAL STATUS -- much improved.  Frontal hypodensity may have
   contributed to withdrawn state (unclear timing of CNS lesion).
   A-FIB -- controlled on amioderone and digoxin.  Monitor digoxin
   level.   For Cardiology evaluation (EP service) --> ?cardioversion.
   Check echo to assess for clot.
   HYPOKALEMIA -- replete to K > 4.0 while on Digoxin.
   RUE SWELLING -- indurated, possible infiltration of peripheral iv.
   Plan ultrasound to assess for clot.  Local care (arm elevation, etc)
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn to complete course.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol prn.
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.  Speech & Swallow evaluation.  [**Month (only) 51**]
   need TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-05-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-5-18**] 10:00 AM
 URINE CULTURE - At [**2146-5-18**] 10:30 AM
 ULTRASOUND - At [**2146-5-18**] 11:15 AM
 EKG - At [**2146-5-18**] 11:47 AM
 BLOOD CULTURED - At [**2146-5-18**] 12:12 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2146-5-18**] 04:15 PM
   pt. cardiorverted with 200 jewels with cardiology and ho attending. pt.
   converted from atrial flutter to nsr rate in 80's. occ. pac's and 1
   burst of af (6) beats. none since.
   pt. given 50mcqs of propofol by anaesthesia. RN in attendance as well.
   vss.
 EKG - At [**2146-5-18**] 05:14 PM
   [**5-18**]
   -cardioverted late afternoon, on heparin and amio drip, to go home on
   ASA not warfarin [**12-27**] concern of adherance
   -delerium, restraints ordered
   -swallow study consult placed to eval for aspiration risk, minimal gag
   reflux
   -SBP 211 @ 0515, 10 mg Hydralazine IV x 1
   -L wrist cellulitis worsening, painful, blisters.  hot pack attempted,
   pt not cooperative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-18**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 12:44 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (83 - 140) bpm
   BP: 187/62(92) {133/37(65) - 187/100(105)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    265 mL
   Urine:
                                                                  1,520 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General: appears in pain, alert and oriented to person only
   HEENT: dry mucus membranes
   CV: RRR S1 S2, grade III/VI murmur loudest at right sternal border,
   tachycardia
   Lungs: decreased breath sounds at bases
   Abdomen: soft/NT/ND +BS
   Ext: left wrist erythemawith vesicular pustules, painful to palpation,
   good peripheral pulse b/l
   Labs / Radiology
   406 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: likely [**12-27**] NMS from Halidol received in outside
   facility.  Improved responsiveness with resolution of purposeful
   movement off sedation and with dantrolene.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement and decreased CPK, will consider restarting if pts
   condition worsens or CPKs trend up
   - standing tylenol
   - avoid neuroleptics/anticholinergics: for agitation consider judicious
   use of ativan
   # Atrial Flutter: patient stable and asymptomatic, trops wnl
   - planned cardioversion with conscious sedation today pm or tomorrow am
   -anticoagulation with heparin and rate control with amiodarone drip and
   diltiazem
   -etiology: blood cx , UA and cx., sputum cx to r/o infection; TFT wnl
   # hypodensity right frontal lobe on Head CT: old infarct vs. underlying
   mass
   - neuro following, appreciate recs
   - if pt. unable to have MRI ([**12-27**] b/l total knee replacement and screws
   in ankles), consider noncontrast head CT with thin cuts
   # Fever, respiratory distress [**12-27**] presumed pneumonia: Pt extubated
   without complication yesterday and is afebrile today. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - CXR show interval improvement in LLL density
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE thrombosis: Doppler show thrombosis in brachialcephalic vein not
   extending to deep veins
   -on heparin for A. flutter
   -cold packs to affected area
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-5-18**] 10:00 AM
 URINE CULTURE - At [**2146-5-18**] 10:30 AM
 ULTRASOUND - At [**2146-5-18**] 11:15 AM
 EKG - At [**2146-5-18**] 11:47 AM
 BLOOD CULTURED - At [**2146-5-18**] 12:12 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2146-5-18**] 04:15 PM
   pt. cardiorverted with 200 jewels with cardiology and ho attending. pt.
   converted from atrial flutter to nsr rate in 80's. occ. pac's and 1
   burst of af (6) beats. none since.
   pt. given 50mcqs of propofol by anaesthesia. RN in attendance as well.
   vss.
 EKG - At [**2146-5-18**] 05:14 PM
   [**5-18**]
   -cardioverted late afternoon, on heparin and amio drip, to go home on
   ASA not warfarin [**12-27**] concern of adherance
   -delerium, restraints ordered
   -swallow study consult placed to eval for aspiration risk, minimal gag
   reflux
   -SBP 211 @ 0515, 10 mg Hydralazine IV x 1
   -L wrist cellulitis worsening, painful, blisters.  hot pack attempted,
   pt not cooperative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-18**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 12:44 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (83 - 140) bpm
   BP: 187/62(92) {133/37(65) - 187/100(105)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    265 mL
   Urine:
                                                                  1,520 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General: appears in pain, alert and oriented to person only
   HEENT: dry mucus membranes
   CV: RRR S1 S2, grade III/VI murmur loudest at right sternal border,
   tachycardia
   Lungs: decreased breath sounds at bases
   Abdomen: soft/NT/ND +BS
   Ext: left wrist erythemawith vesicular pustules, painful to palpation,
   good peripheral pulse b/l
   Labs / Radiology
   406 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: likely [**12-27**] NMS from Halidol received in outside
   facility.  Improved responsiveness with resolution of purposeful
   movement off sedation and with dantrolene.  Also concerned for
   sundowning.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement and decreased CPK, will consider restarting if pts
   condition worsens or CPKs trend up
   - standing tylenol
   - avoid neuroleptics/anticholinergics: for agitation consider judicious
   use of ativan
   # Atrial Flutter: Cardioverted, in sinus rhythm since cardioversion.
   Anticoagulated and receiving amioderone drip.
   - planned cardioversion with conscious sedation today pm or tomorrow am
   -anticoagulation with heparin and rate control with amiodarone drip and
   diltiazem
   -etiology: blood cx , UA and cx., sputum cx to r/o infection; TFT wnl
   # hypodensity right frontal lobe on Head CT: old infarct vs. underlying
   mass.
   - neuro following, appreciate recs
   - if pt. unable to have MRI ([**12-27**] b/l total knee replacement and screws
   in ankles), consider noncontrast head CT with thin cuts
   # Fever, respiratory distress [**12-27**] presumed pneumonia: Pt extubated
   without complication yesterday and is afebrile today. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - CXR show interval improvement in LLL density
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE thrombosis: Doppler show thrombosis in brachialcephalic vein not
   extending to deep veins
   -on heparin for A. flutter
   -cold packs to affected area
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-5-18**] 10:00 AM
 URINE CULTURE - At [**2146-5-18**] 10:30 AM
 ULTRASOUND - At [**2146-5-18**] 11:15 AM
 EKG - At [**2146-5-18**] 11:47 AM
 BLOOD CULTURED - At [**2146-5-18**] 12:12 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2146-5-18**] 04:15 PM
   pt. cardiorverted with 200 jewels with cardiology and ho attending. pt.
   converted from atrial flutter to nsr rate in 80's. occ. pac's and 1
   burst of af (6) beats. none since.
   pt. given 50mcqs of propofol by anaesthesia. RN in attendance as well.
   vss.
 EKG - At [**2146-5-18**] 05:14 PM
   [**5-18**]
   -cardioverted late afternoon, on heparin and amio drip, to go home on
   ASA not warfarin [**12-27**] concern of adherance
   -delerium, restraints ordered
   -swallow study consult placed to eval for aspiration risk, minimal gag
   reflux
   -SBP 211 @ 0515, 10 mg Hydralazine IV x 1
   -L wrist cellulitis worsening, painful, blisters.  hot pack attempted,
   pt not cooperative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-18**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 12:44 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (83 - 140) bpm
   BP: 187/62(92) {133/37(65) - 187/100(105)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    265 mL
   Urine:
                                                                  1,520 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   406 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-5-18**] 10:00 AM
 URINE CULTURE - At [**2146-5-18**] 10:30 AM
 ULTRASOUND - At [**2146-5-18**] 11:15 AM
 EKG - At [**2146-5-18**] 11:47 AM
 BLOOD CULTURED - At [**2146-5-18**] 12:12 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2146-5-18**] 04:15 PM
   pt. cardiorverted with 200 jewels with cardiology and ho attending. pt.
   converted from atrial flutter to nsr rate in 80's. occ. pac's and 1
   burst of af (6) beats. none since.
   pt. given 50mcqs of propofol by anaesthesia. RN in attendance as well.
   vss.
 EKG - At [**2146-5-18**] 05:14 PM
   [**5-18**]
   -cardioverted late afternoon, on heparin and amio drip, to go home on
   ASA not warfarin [**12-27**] concern of adherance
   -delerium, restraints ordered
   -swallow study consult placed to eval for aspiration risk, minimal gag
   reflux
   -SBP 211 @ 0515, 10 mg Hydralazine IV x 1
   -L wrist cellulitis worsening, painful, blisters.  hot pack attempted,
   pt not cooperative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-18**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 12:44 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (83 - 140) bpm
   BP: 187/62(92) {133/37(65) - 187/100(105)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    265 mL
   Urine:
                                                                  1,520 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   406 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and is now transferred to the [**Hospital Unit Name 1**] due
   to altered mental status and total body rigidity.
   # AMS/rigidity: likely [**12-27**] NMS from Halidol received in outside
   facility.  Improved responsiveness with resolution of purposeful
   movement off sedation and with dantrolene.
   - hydration to keep UOP > 50, LR vs NS
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement and decreased CPK, will consider restarting if pts
   condition worsens or CPKs trend up
   - standing tylenol
   - avoid neuroleptics/anticholinergics: for agitation consider judicious
   use of ativan
   # Atrial Flutter: patient stable and asymptomatic, trops wnl
   - planned cardioversion with conscious sedation today pm or tomorrow am
   -anticoagulation with heparin and rate control with amiodarone drip and
   diltiazem
   -etiology: blood cx , UA and cx., sputum cx to r/o infection; TFT wnl
   # hypodensity right frontal lobe on Head CT: old infarct vs. underlying
   mass
   - neuro following, appreciate recs
   - if pt. unable to have MRI ([**12-27**] b/l total knee replacement and screws
   in ankles), consider noncontrast head CT with thin cuts
   # Fever, respiratory distress [**12-27**] presumed pneumonia: Pt extubated
   without complication yesterday and is afebrile today. Sputum so far
   growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - )
   - CXR show interval improvement in LLL density
   - cxs continue show no growth
   - holding sedation
   - PICC placement for antibiotics today
   # HTN: Patient hypertensive to 180 today.  Prior h/o HTN, currently
   concern for hypertension in the setting of NMS.  Pt unable to tolerate
   PO [**Last Name (LF) 8376**], [**First Name3 (LF) **] switch to IV dosing.
   - metoprolol 5 mg IV q6
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # Elevated AST/ALT: LDH also elevated, AlkPhos/bili wnl. Likely muscle
   source given elevated CK. AST was also elevated at OSH supporting h/o
   EtOH use.  AST/ALT, alkphos downtrending.
   -will d/c lab liver panel as pt is improving, continue to follow CK.
   # CAD s/p CABG:  Hold on home po meds for now given NPO status. CE
   negative x 3.
   - Continue monitoring on telemetry.
   - Continue metoprolol, will switch to IV for ease of administration.
   .
   # RUE thrombosis: Doppler show thrombosis in brachialcephalic vein not
   extending to deep veins
   -on heparin for A. flutter
   -cold packs to affected area
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-19 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CARDIOVERSION/DEFIBRILLATION - At [**2146-5-18**] 04:15 PM
   pt. cardiorverted with 200 joules with cardiology and ho attending. pt.
   converted from atrial flutter to nsr rate in 80's. occ. pac's and 1
   burst of af (6) beats. Remained in sinus rhythym
   pt. given 50mcqs of propofol by anaesthesia. RN in attendance as well.
   vss.
   -maintained on heparin and amio drip, to go home on ASA and coumadin
   -delerium, restraints ordered
   -swallow study consult placed to eval for aspiration risk, minimal gag
   reflux
   -SBP 211 @ 0515, 10 mg Hydralazine IV x 2, labetolol IV x 1: patient
   asymptomatic denied symptoms of end organ dysfunction
   -L wrist cellulitis worsening, painful, blisters.  hot pack attempted,
   pt not cooperative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-5-18**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 12:44 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-5-18**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2146-5-18**] 08:10 AM
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (83 - 140) bpm
   BP: 187/62(92) {133/37(65) - 187/100(105)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    265 mL
   Urine:
                                                                  1,520 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General: appears in pain, alert and oriented to person only
   HEENT: dry mucus membranes
   CV: RRR S1 S2, grade III/VI murmur loudest at right sternal border,
   tachycardia
   Lungs: decreased breath sounds at bases
   Abdomen: soft/NT/ND +BS
   Ext: left wrist erythemawith vesicular pustules, painful to palpation,
   good peripheral pulse b/l
   Labs / Radiology
   406 K/uL
   7.9 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   77F w h/o CAD s/p CABG, CKD, EtOH use, depression, who initially was
   admitted to OSH with SOB and UTI and transferred to the [**Hospital Unit Name 1**] due to
   altered mental status and total body rigidity.
   # AMS/rigidity: likely [**12-27**] NMS from Halidol received in outside
   facility.  Improved responsiveness with resolution of purposeful
   movement after rx with dantrolene.  Also concerned for sundowning.
   - plan to hold dantrolene per tox recs given patient
s continued
   clinical improvement and decreased CPK, will consider restarting if pts
   condition worsens or CPKs trend up
   - avoid neuroleptics/anticholinergics: for agitation consider judicious
   use of ativan
   - pt also develops AMS and agitation with morphine, avoid when possible
   # Atrial Flutter: Cardioverted, in sinus rhythm since cardioversion.
   Anticoagulated, amiodarone drip transitioned to oral meds.
   -anticoagulation with heparin, should be transitioned to coumadin upon
   discharge (pending MRI of head results)
   -rate control with amiodarone
   -etiology unknown: blood cx , UA and cx., sputum cx to r/o infection;
   hx of CAD s/p CABG; TFT wnl
   # hypodensity right frontal lobe on Head CT: old infarct vs. underlying
   mass.
   - neuro following, appreciate recs
   - if pt. unable to have MRI ([**12-27**] b/l total knee replacement and screws
   in ankles), consider noncontrast head CT with thin cuts
   # Fever, respiratory distress [**12-27**] presumed pneumonia: Pt extubated
   without complication, afebrile aith stable WBC
   - Sputum so far growing yeast.
   - continue vancomycin, zosyn ([**5-15**] - ) via picc
   - CXR show interval improvement in LLL density
   - cxs continue show no growth
   # HTN: Patient hypertensive to 211 today: responded to hydralazine and
   labetolol, no sx. of end organ damage
   - hx. Of complicated HTN on multiple home meds: restart valsartan,
   imdur, amlodiple.  Will hold metoprolol for now [**12-27**] potential drug
   interaction with amiodarone
   - hydralazine PRN
   # Anemia: Stable.
   - monitor daily Hct
   - transfuse Hct < 21
   # CAD s/p CABG:  stable, restart home medications
   .
   # RUE thrombosis: Doppler show thrombosis in brachialcephalic vein not
   extending to deep veins
   -on heparin for A. flutter
   -cold packs to affected area
   #Left wrist cellulitis: erythema and pain of Left wrist developping in
   past 24hrs
   - MRSA screen neg today
   - pt already on vanco for HAP
   -cont to monitor for resolution
   # Depression:
   - holding home seroquel.
   ICU Care
   Nutrition: regular diet following speech and swallow evaluation
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable, transfer to floor

2146-05-19 11:30:00 Physician Attending Progress Note
Chief Complaint: A-fibrilliation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday cardiorverted with 200 jewels by Cardiology Service.  Remains
   in NRS.
   Remains on heparin gtt.
   Mental status improved (more awake, alert), although remains
   disoriented.
   Demonstrates Cheynne-[**Doctor Last Name 559**] breathing pattern during sleep.  Reversal
   of sleep-wake cycle.
                                  History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-5-19**] 07:45 AM
   Vancomycin - [**2146-5-19**] 09:20 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium - [**2146-5-18**] 12:37 PM
   Diltiazem - [**2146-5-18**] 12:47 PM
   Propofol - [**2146-5-18**] 04:10 PM
   Hydralazine - [**2146-5-19**] 06:25 AM
   Labetalol - [**2146-5-19**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-19**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 84 (80 - 136) bpm
   BP: 166/83(104) {133/37(65) - 199/100(105)} mmHg
   RR: 18 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 63.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,621 mL
                                                                  1,195 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    360 mL
   Urine:
                                                                  1,520 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox2, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   406 K/uL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:10 PM
                             [**2146-5-16**]  04:24 PM
                             [**2146-5-17**]  03:50 AM
                             [**2146-5-17**]  04:20 AM
                             [**2146-5-17**]  10:32 AM
                             [**2146-5-17**]  04:10 PM
                             [**2146-5-17**]  04:24 PM
                             [**2146-5-18**]  02:25 AM
                             [**2146-5-18**]  02:32 AM
                             [**2146-5-19**]  03:16 AM
   WBC
   11.3
   12.4
   13.6
   Hct
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 8403**]
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   21
   21
   21
   22
   Glucose
   91
   100
   123
   123
   Other labs: PT / PTT / INR:11.9/80.0/1.0, CK / CKMB /
   Troponin-T:119/3/<0.01, ALT / AST:40/53, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.9 mmol/L, LDH:289 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   A-FLUTTER/A-FIB
   MUSCULAR RIGIDITY -- attributed to NMS.  Improved now off dantrolene.
   Avoid neuroleptics.
   ALTERED MENTAL STATUS -- much improved.  Frontal hypodensity may have
   contributed to withdrawn state (unclear timing of CNS lesion).  Suspect
   in part ICU psychosis.
   A-FIB -- Stable s/p cardioversion, and controlled on amioderone.
   HYPOKALEMIA -- replete to K > 4.0.
   RUE SWELLING -- Superficial clot identified by US.  Local care (arm
   elevation, etc)
   Left WRIST CELLULITSI
attributed to peripheral iv.
   PNEUMONIA -- VAP.  Monitor.  Continue empirical antimicrobials -->
   vanco/zosyn to complete course.
   HYPONATREMIA -- resolved.  Attributed to dantrolene.  Monitor Na.
   HTN
 continue metoprolol prn.
   CNS -- Frontal lobe hypodensity, suspect prior CVA, but unclear as to
   timing.
   NUTRITIONAL SUPPORT -- TF on hold.  Speech & Swallow evaluation.  [**Month (only) 51**]
   need TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-5-17**] 04:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill